US06774130B2
To a stirring solution of (R)-1-(5-acetoxyhexyl)-3-(2-furylmethyl)-7-methylxanthine (0.42 g, 1.07 mmol) in methanol (20 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4 M, 0.80 ml, 3.21 mmol) and the mixture was refluxed for 5 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure. The residue was treated with saturated aqueous sodium bicarbonate solution (25 ml) and the mixture was extracted with dichloromethane (3×25 ml). The combined extracts were washed with saturated aqueous sodium chloride solution (2×25 ml), dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate to provide (R)-3-(2-furylmethyl)-1-(5-hydroxyhexyl)-7-methylxanthine (0.30 g, 80% yield).

reactant | (R)-1-(5-acetoxyhexyl)-3-(2-furylmethyl)-7-methylxanthine | 1.07 mmol, 0.42 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)CC=1OC=CC1)C | C19H24N4O5
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 3.21 mmol, 4 M, 0.80 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
product | (R)-3-(2-furylmethyl)-1-(5-hydroxyhexyl)-7-methylxanthine | 0.30 g, 80% yield | O1C(=CC=C1)CN1C(N(C(C=2N(C=NC12)C)=O)CCCC[C@@H](C)O)=O | C17H22N4O4
